US08445480B2
Step B: 4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-[(7S)-1,4-oxazepan-7-ylmethyl]benzamide
To a solution of benzyl(7S)-7-({[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}methyl-1,4-oxazepane-4-carboxylate (211 mg) in 30 ml methanol was added 10% palladium on carbon (40 mg). The mixture was stirred under an atmosphere of hydrogen (via balloon) overnight at room temperature. The mixture was then filtered through a small plug of Celite and concentrated in vacuo to provide the title compound (133 mg, 83%). Mass spectrum (ESI) 419.3 (M+1).

reactant | {[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}methyl-1,4-oxazepane-4-carboxylate | 211 mg | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NCOC(=O)N3CCOCCC3)C=C2)C1)C(C)C | C25H26N4O5
reactant | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
product | 4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-[(7S)-1,4-oxazepan-7-ylmethyl]benzamide | 133 mg, 83% | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NC[C@@H]3CCNCCO3)C=C2)C1)C(C)C | C24H26N4O3
